US05220042
426 Milligrams of 1,4-dimethoxy-2,5-bis(methoxymethoxy)-3-methyl-6-{5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]pentyl}benzene was dissolved in 5 ml of tetrahydrofuran and 5 ml of isopropanol, under nitrogen gas stream conditions, 1 ml of tetrahydrofuran-isopropanol (1:1) solution of 20% hydrogen chloride was added thereto, and the mixture was stirred at room temperature for 12 hours. The solvent was removed by evaporation under reduced pressure to obtain colorless powdery substance. This substance was dissolved, without being purified, in 20 ml of methanol, and a small amount of sodium hydrogen carbonate was added, then the mixture was heated at 60° C., and was stirred for 2 hours under oxygen gas stream condition. The solvent was removed by evaporation under reduced pressure, and the residue obtained was developed on a preparative thin layer chromatography (eluent: 40% ethyl acetate-n-hexane) to obtain 262 mg of 2,5-dimethoxy3-methyl-6-[5-(2,5-dimethoxy-1,4-benzoquinon-3-yl)pentyl]1,4-benzoquinone. Yellow powdery substance.

reactant | 1,4-dimethoxy-2,5-bis(methoxymethoxy)-3-methyl-6-{5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]pentyl}benzene | COC1=C(C(=C(C(=C1CCCCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC)OCOC)OC)C)OCOC | C30H46O12
reactant | tetrahydrofuran isopropanol | 1 ml | O1CCCC1.C(C)(C)O
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 2,5-dimethoxy3-methyl-6-[5-(2,5-dimethoxy-1,4-benzoquinon-3-yl)pentyl]1,4-benzoquinone | 262 mg | COC=1C(C(=C(C(C1C)=O)OC)CCCCCC1=C(C(C=C(C1=O)OC)=O)OC)=O | C22H26O8
